US04466980
In a similar way to Example 24, (1), 293 mg of crude 4(RS)-(tetrahydropyran-2-yloxy)-3(RS)-[3-(tetrahydropyran-2-yloxy)-trans-1-octenyl]-2(SR)-(methanesulfonyloxymethyl)cyclopentanone was prepared from 243 mg of 4(RS)-(tetrahydropyran-2-yloxy)-3(RS)-]3-(tetrahydropyran-2-yloxy)trans-1-octenyl]-2(SR)-(hydroxymethyl)cyclopentanone. The crude product was reacted with diisopropylethylamine in ether in a similar way to Example 24, (2) to give 239 mg of crude 4(RS)-(tetrahydropyran-2-yloxy)-3(RS)-[3-(tetrahydropyran-2-yloxy)trans-1-octenyl]-2-methylidenecyclopentanone.

reactant | 4(RS)-(tetrahydropyran-2-yloxy)-3(RS)-[3-(tetrahydropyran-2-yloxy)-trans-1-octenyl]-2(SR)-(methanesulfonyloxymethyl)cyclopentanone | 293 mg | O1C(CCCC1)OC1C(C(C(C1)=O)COS(=O)(=O)C)\C=C\C(CCCCC)OC1OCCCC1 | C25H42O8S
reactant | 2(SR)-(hydroxymethyl)cyclopentanone | OCC1C(CCC1)=O | C6H10O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ether | CCOCC | C4H10O
product | 4(RS)-(tetrahydropyran-2-yloxy)-3(RS)-[3-(tetrahydropyran-2-yloxy)trans-1-octenyl]-2-methylidenecyclopentanone | 239 mg | O1C(CCCC1)OC1C(C(C(C1)=O)=C)\C=C\C(CCCCC)OC1OCCCC1 | C24H38O5
